.SUBCKT 3N247  AC1 AC2 + -
 
D1 AC2  +   3N247
D2 AC1  +   3N247
D3 -    AC2 3N247
D4 -    AC1 3N247
.MODEL 3N247 D (
+   IS =  1.001e-20
+   RS =  0.03767
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 100 * 1.2 }
+   N =  0.9892
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N248  AC1 AC2 + -
 
D1 AC2  +   3N248
D2 AC1  +   3N248
D3 -    AC2 3N248
D4 -    AC1 3N248
.MODEL 3N248 D (
+   IS =  1.001e-20
+   RS =  0.03767
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 200 * 1.2 }
+   N =  0.9892
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N249  AC1 AC2 + -
 
D1 AC2  +   3N249
D2 AC1  +   3N249
D3 -    AC2 3N249
D4 -    AC1 3N249
.MODEL 3N249 D (
+   IS =  1.001e-20
+   RS =  0.03767
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 400 * 1.2 }
+   N =  0.9892
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N250  AC1 AC2 + -
 
D1 AC2  +   3N250
D2 AC1  +   3N250
D3 -    AC2 3N250
D4 -    AC1 3N250
.MODEL 3N250 D (
+   IS =  1.001e-20
+   RS =  0.03767
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 600 * 1.2 }
+   N =  0.9892
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N251  AC1 AC2 + -
 
D1 AC2  +   3N251
D2 AC1  +   3N251
D3 -    AC2 3N251
D4 -    AC1 3N251
.MODEL 3N251 D (
+   IS =  1.001e-20
+   RS =  0.03767
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 800 * 1.2 }
+   N =  0.9892
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N252  AC1 AC2 + -
 
D1 AC2  +   3N252
D2 AC1  +   3N252
D3 -    AC2 3N252
D4 -    AC1 3N252
.MODEL 3N252 D (
+   IS =  1.001e-20
+   RS =  0.03767
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 1000 * 1.2 }
+   N =  0.9892
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N253  AC1 AC2 + -
 
D1 AC2  +   3N253
D2 AC1  +   3N253
D3 -    AC2 3N253
D4 -    AC1 3N253
.MODEL 3N253 D (
+   IS =  3.271e-08
+   RS =  0.02135
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 50 * 1.2 }
+   N =  2.118
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N254  AC1 AC2 + -
 
D1 AC2  +   3N254
D2 AC1  +   3N254
D3 -    AC2 3N254
D4 -    AC1 3N254
.MODEL 3N254 D (
+   IS =  3.282e-08
+   RS =  0.02139
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 100 * 1.2 }
+   N =  2.117
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N255  AC1 AC2 + -
 
D1 AC2  +   3N255
D2 AC1  +   3N255
D3 -    AC2 3N255
D4 -    AC1 3N255
.MODEL 3N255 D (
+   IS =  3.282e-08
+   RS =  0.02139
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 200 * 1.2 }
+   N =  2.117
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N256  AC1 AC2 + -
 
D1 AC2  +   3N256
D2 AC1  +   3N256
D3 -    AC2 3N256
D4 -    AC1 3N256
.MODEL 3N256 D (
+   IS =  3.282e-08
+   RS =  0.02139
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 400 * 1.2 }
+   N =  2.117
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N257  AC1 AC2 + -
 
D1 AC2  +   3N257
D2 AC1  +   3N257
D3 -    AC2 3N257
D4 -    AC1 3N257
.MODEL 3N257 D (
+   IS =  3.282e-08
+   RS =  0.02139
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 600 * 1.2 }
+   N =  2.117
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N258  AC1 AC2 + -
 
D1 AC2  +   3N258
D2 AC1  +   3N258
D3 -    AC2 3N258
D4 -    AC1 3N258
.MODEL 3N258 D (
+   IS =  3.282e-08
+   RS =  0.02139
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 800 * 1.2 }
+   N =  2.117
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N259  AC1 AC2 + -
 
D1 AC2  +   3N259
D2 AC1  +   3N259
D3 -    AC2 3N259
D4 -    AC1 3N259
.MODEL 3N259 D (
+   IS =  3.282e-08
+   RS =  0.02139
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 1000 * 1.2 }
+   N =  2.117
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS

.SUBCKT 3N246  AC1 AC2 + -
 
D1 AC2  +   3N246
D2 AC1  +   3N246
D3 -    AC2 3N246
D4 -    AC1 3N246
.MODEL 3N246 D (
+   IS =  1e-20
+   RS =  0.03767
+   CJO =  1e-12
+   VJ =  0.75
+   TT =  5e-09
+   M =  0.3333
+   BV =  { 50 * 1.2 }
+   N =  0.9892
+   EG =  1.11
+   XTI =  3
+   KF =  0
+   AF =  1
+   FC =  0.5
+   IBV =  0.0001
+   TNOM =  27
+ )
.ENDS


