* Created by Alexander Bordodynov on 8 feb 2017
.subckt 1P2T 1 2 3  p Ron=1u Roff=1T
V 5 0 {set}
R 5 p 100k
c p 0 1p
R1 1 2 R=if((0.5<v(p)) ,Ron,Roff)
R2 1 3 R=if((0.5>v(p)) ,Ron,Roff)
.ends 1P2T
